### ISSUE TITLE
Pretty-print auto-params

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#3548]
Auto-params `(x : A := by ...)` are not pretty-printed by default. 

Example:
```lean
import Lean

macro "id_tac" : tactic =>
  `(tactic| (first | exact id))

def f (x : ℕ) (g : ℕ → ℕ := by id_tac) := g x = x

example (h : f 3) : f 3 (· + 5) := _
/-
don't know how to synthesize placeholder
context:
h: f 3
⊢ f 3
-/
```

However, auto-params are not implicit arguments, and important information is omitted when leaving them out. They should therefore always be printed.

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Pretty-printing.20and.20auto-params)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by kmill** [comment]
Closed by #3375

```lean
import Lean

def f (x : ℕ) (g : ℕ → ℕ := by id_tac) := g x = x

example (h : f 3) : f 3 (· + 5) := _
/-
don't know how to synthesize placeholder
context:
h: f 3 id
⊢ f 3 fun x => x + 5
-/
```
